US06617346B1
To a solution of 5-chloromethyl-2-methoxy-benzonitrile (254 mg, 1.399 mmol) in ethanol (10 mL) was added potassium carbonate (387 mg, 2.798 mmol). The mixture was heated at reflux for 12 h. Upon cooling to room temperature, the solvent was removed. Water (2-5 mL) was added and the product was extracted with diethyl ether (2×20 mL). The organic layers were washed with brine (1×5 mL) and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 20% ethyl acetate in hexanes yielded 5-ethoxymethyl-2-methoxy-benzonitrile (182 mg, 68%).

reactant | 5-chloromethyl-2-methoxy-benzonitrile | 1.399 mmol, 254 mg | ClCC=1C=CC(=C(C#N)C1)OC | C9H8ClNO
reactant | potassium carbonate | 2.798 mmol, 387 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 5-ethoxymethyl-2-methoxy-benzonitrile | 182 mg, 68% | C(C)OCC=1C=CC(=C(C#N)C1)OC | C11H13NO2
